US04001408
1.5-dimethyl 1,2,4,5-tetrahydro 2,4-diketo 3H-1,5-benzodiazepine (R1 = H, R2 = H.R3 = CH3, R4 = CH3)
2 g of sodium amide are added to a suspension of 9.5 g of 1-methyl 1,2,4,5-tetrahydro 2,4-diketo 3-H-1,5-benzodiazepine, obtained in the example XIV, in 30 c.c. of xylene, and the whole is heated for about thirty minutes, while agitating, treated with 20 c.c. of methyl-sulfate and as soon as the exothermic reaction has ceased, this is heated and boiled for three hours. The solvent is evaporated under reduced pressure, the residue is taken up in 200 c.c. of a 10% solution of caustic soda, and after agitation, suction filtered, and purified upon crystallisation in 90% ethanol. Yield 4.5 g; melting point : 240°-242° C. Analysis: C11H12N2O2Calculated: C % 64.69 H % 5.92; N % 13.72; Found: 64.67; 6.12; 13.95.

reactant | sodium amide | 2 g | [NH2-].[Na+]
reactant | 1-methyl 1,2,4,5-tetrahydro 2,4-diketo 3-H-1,5-benzodiazepine | 9.5 g | CN1C(CC(NC2=C1C=CC=C2)=O)=O | C10H10N2O2
reactant | methyl-sulfate | COS(=O)(=O)[O-]
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 1.5-dimethyl 1,2,4,5-tetrahydro 2,4-diketo 3H-1,5-benzodiazepine | CN1C(CC(N(C2=C1C=CC=C2)C)=O)=O | C11H12N2O2
